US04499102
(2S)-1-[(2S)-2-[(1-Carboxy-3-phenylpropyl)thio]propanoyl]-2-pyrrolidinecarboxylic acid (compound 79)
(2S)-1-[(2S)-2-Mercaptopropanoyl]-2-pyrrolidinecarboxylic acid (2.0 g), potassium carbonate (2.8 g) and 2-bromo-4-phenylbutanoic acid (2.9 g) were dissolved in water (40 ml), and stirred overnight at room temperature. The reaction mixture was acidified with 6N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residual oil was purified by silica gel column chromatography to give 2.3 g (62%) of the titled compound: [α]D23 -82.2° (c=1.2, MeOH). IR (KBr, cm-1): 1740, 1720, 1610, 1455, 1438, 1185, 748, 700.

reactant | (2S)-1-[(2S)-2-Mercaptopropanoyl]-2-pyrrolidinecarboxylic acid | 2.0 g | S[C@H](C(=O)N1[C@@H](CCC1)C(=O)O)C | C8H13NO3S
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-4-phenylbutanoic acid | 2.9 g | BrC(C(=O)O)CCC1=CC=CC=C1 | C10H11BrO2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | 40 ml | O | H2O
product | (2S)-1-[(2S)-2-[(1-Carboxy-3-phenylpropyl)thio]propanoyl]-2-pyrrolidinecarboxylic acid | 2.3 g, 62% | C(=O)(O)C(CCC1=CC=CC=C1)S[C@H](C(=O)N1[C@@H](CCC1)C(=O)O)C | C18H23NO5S
